US04391808
To the solution of 0.5 g of 5-(4-carbobenzoxypiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine in 5 ml of methylene chloride, cooled at 0° C., is added dropwise a solution of 0.26 g of m-chloroperbenzoic acid dissolved in 2 ml of methylene chloride. The mixture is stirred at 0° C. for 1.5 hrs., the solids are filtered, and the filtrates are washed with 10% aqueous potassium carbonate and water, then dried over magnesium sulfate and evaporated to dryness to give 5-(4-carbobenzoxypiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine 1-oxide.

reactant | 5-(4-carbobenzoxypiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine | 0.5 g | C(=O)(OCC1=CC=CC=C1)N1CCN(CC1)C=1N2C(SC3=C(N1)C=CC=C3)=NC=C2 | C22H21N5O2S
reactant | m-chloroperbenzoic acid | 0.26 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-carbobenzoxypiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine 1-oxide | C(=O)(OCC1=CC=CC=C1)N1CCN(CC1)C=1N2C(SC3=C(N1)C=CC=C3)=[N+](C=C2)[O-] | C22H21N5O3S
